Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived / Percocet / Vicodin / tramadol
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with history of
chronic abdominal and testicular pain and recent evaluations at
___ and ___ over the last several days presenting with sudden
onset central chest pain. 

The patient has a history of chronic right lower quadrant pain
for approximately ___ that feels like tightness and also
involves his testicle that has been extensively worked up 
without
clear etiology. On discussing with the patient, this is a source
of significant distress for him overall and has led to some
skepticism about the health care system. 

However, he has been seen twice over the last two days for new
right lower abdominal pain that feels more like a ball in the
area as well as chest pain. He reportedly was seen at ___ 2 days
ago with chest and abdominal pain where a CT scan showed
proctitis. He left there AMA and presented to the ___ ED on
___ AM. At that time, he only had abdominal pain and labs were
reassuring. Review of the record from ___ showed CT with mild
nonspecific thickening of the rectum which could be ___ under
distention or proctitis of infectious or inflammatory etiology 
in
appropriate clinical setting. He was given ceftriaxone and
doxycycline for possible GC/chlamydia apparently though there is
no documentation of this and was discharged on ? abx. He was
discharged from our ED the morning of ___ and then returned 
that
evening. 

This evening, patient reported a central, non-radiating chest
pain that feels heavy and tight at the ___ his chest. He
reports that it is both sharp and dull at different times. Feels
like a mass in his chest making it difficult for him to work. It
has come and gone and was worse after eating a fruit and nut mix
around 4pm on ___ prompting presentation back to the ED. He
denies any fevers, nausea, vomiting, SOB. He has had several
bowel movements since leaving the ED. He denies recent ravel.
Denies recent injuries. He notes prior episodes in the past
without clear aggravating or alleviating factors. 

In the ED, initial vitals: ___ 138 136/83 40 100% RA. He
triggered for tachycardia. With reassurance, his HR improved to
115 and RR improved to the ___. 
Labs notable for normal CBC, Cr 1.1 from 0.7 earlier in the day,
bicarb of 18 with AG of 20, phos of 0.9, lactate 6.2, VBG with 
ph
of 7.59, CO2 of 18. 
He had a CTA chest/abd/pelvis with no PE or aortic abnormality
but with multiple fluid filled loops of small bowel with mild
hyperemia possibly representing enteritis. 
He received lorazepam 1mg IV, 2L NS, Dilaudid 1mg IV and PO 
phos.

Given 3 ED admissions within 2 days, decision was made to admit
for further work-up. 
 
Upon arrival to the floor, the patient reports the history as
described above. He also notes that he has had significant
stressors for years including a very bad break up a few years
ago, some estrangement vs strained family relationships, stress
of his work and sexual encounters. He is tearful during this
discussion and thinks he may be depressed though denies SI. 
 
REVIEW OF SYSTEMS:  
10 point ROS negative except as noted above
 
Past Medical History:
Generalized anxiety disorder
H/o shingles complicated by post-herpetic trigeminal neuralgia
ADHD
Chronic RLQ/groin pain of unclear etiology
High risk sexual behavior on PREP
ORIF R clavicle in ___ after a ski accident
 
Social History:
___
Family History:
Reviewed and found to be noncontributory to this presentation
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.2 PO 117 / 75 R Lying 83 16 97 RA 
GENERAL: Comfortable, intermittently tearful
EYES: Anicteric
ENT: MMM, OP clear
CV: RRR, no murmurs
RESP: Unlabored, good air movement throughout
GI: Normoactive BS, soft, nondistended, ttp in epigastrium,
somewhat distractable, mild ttp in RLQ without rebound
GU: No suprapubic ttp
MSK: Muscular, no joint pains
SKIN: Multiple tattoos, no other rashes 
NEURO: Alert, oriented, moving all extremities
PSYCH: Tearful at times

DISCHARGE EXAM:
VITALS: ___ 0725 Temp: 97.8 PO BP: 114/70 HR: 70 RR: 18 O2
sat: 98% O2 delivery: RA 
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: calm, pleasant
 
Pertinent Results:
ADMISSION LABS:
___ 03:41AM BLOOD WBC-6.4 RBC-4.23* Hgb-12.9* Hct-37.9* 
MCV-90 MCH-30.5 MCHC-34.0 RDW-13.5 RDWSD-44.4 Plt ___
___ 03:41AM BLOOD Neuts-66.7 ___ Monos-7.5 Eos-3.0 
Baso-0.3 Im ___ AbsNeut-4.24 AbsLymp-1.41 AbsMono-0.48 
AbsEos-0.19 AbsBaso-0.02
___ 10:42PM BLOOD D-Dimer-301
___ 03:41AM BLOOD Glucose-106* UreaN-7 Creat-0.7 Na-142 
K-3.9 Cl-107 HCO3-23 AnGap-12
___ 10:30PM BLOOD Albumin-4.8 Calcium-10.2 Phos-0.9* Mg-1.9
___ 10:30PM BLOOD ALT-22 AST-40 AlkPhos-54 TotBili-0.3
___ 10:30PM BLOOD Lipase-27
___ 03:41AM BLOOD cTropnT-<0.01
___ 10:30PM BLOOD cTropnT-<0.01
___ 03:20AM BLOOD cTropnT-<0.01
___ 03:41AM BLOOD Trep Ab-NEG
___ 10:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:39PM BLOOD ___ pO2-39* pCO2-18* pH-7.59* 
calTCO2-18* Base XS-0
___ 07:16AM BLOOD ___ pO2-148* pCO2-49* pH-7.35 
calTCO2-28 Base XS-0
___ 10:45PM BLOOD Lactate-6.2*
___ 01:53AM BLOOD Lactate-0.6
___ 07:16AM BLOOD Lactate-0.8

DISCHARGE LABS:
___ 07:28AM BLOOD WBC-4.4 RBC-4.47* Hgb-13.6* Hct-40.3 
MCV-90 MCH-30.4 MCHC-33.7 RDW-13.5 RDWSD-45.0 Plt ___
___ 07:28AM BLOOD Glucose-85 UreaN-7 Creat-0.8 Na-145 K-4.2 
Cl-108 HCO3-26 AnGap-11
___ 07:28AM BLOOD Calcium-8.6 Phos-4.4 Mg-2.1

MICRO:
URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING/STUDIES:
CTA chest/abd/pelvis: 
1. Study is moderately limited in the setting of motion 
artifact,
however within these limitations there is no evidence of
pulmonary embolism or acute aortic abnormality. 
2. Multiple fluid-filled loops of small bowel with mild
hyperemia, possibly representing mild enteritis. 

CXR ___: No acute cardiopulmonary process.
 
Brief Hospital Course:
SUMMARY/ASSESSMENT:   
___ year old man with history of generalized anxiety disorder, 
ADHD, chronic abdominal and testicular pain and recent 
evaluations at ___ and ___ over the last several days
presenting with sudden onset central chest pain. 
 
ACUTE/ACTIVE PROBLEMS:

# Chest pain:
Patient has had 3 days of epigastric pain that ranges in nature 
from sharp to dull to burning with sensation of some sort of 
mass trying to get out of his body without associated nausea. 
CTA
chest and CT abdomen/pelvis without etiology of pain though did 
show possible enteritis. PE and aortic pathology ruled out with 
CT chest. R/o for ACS with normal EKG and trop neg x2. 
Would consider ulcer or gastritis as cause of symptoms vs 
enteritis as seen on CT, however chest pain did not seem to 
improve with GI cocktail. 
Alternatively, patient with significant psychosocial stressors 
which may be contributing to symptoms (see discussion below). 
Chest pain episodes have been largely in the setting of panic 
attacks and are relived by benzodiazepines and hydroxyzine.

# Generalized anxiety
# Major depressive disorder, no SI or HI
Per discussion with his PCP (___), the patient is often 
emotionally labile and would recommend consideration of a mood 
stabilizer. He had several emotional outbursts inpatient and 
threatened to leave AMA multiple times, but ultimately decided 
to stay for treatment. The patient's previous mental health 
provider was ___ at ___ but he stopped seeing her 
because of "personality differences." He is currently without an 
outpatient mental health provider.
 He was seen by psychiatry. He declined additional psychotropic 
meds, but was open to hearing about resources such as the 
___ clinic at ___ and "heart map" breathing exercises. He 
was also provided recommendations for mental health follow up in 
the community. 
He was continued on his home clonazepam and provided a 
prescription for hydroxyzine, which was helpful for his 
anxiety/panic attacks.

# Abdominal pain: Chronic pain of unclear etiology. He has not 
been complaining of this pain inpatient. 

# AGMA - resolved
# Lactic acidosis - resolved
Noted to have AG of 20 on admission with lactate of 6 without 
clear precipitant. This raised concern for possible ischemic 
colitis though patient is without risk factors and lactate 
improved rapidly with fluids. CTA abdomen did not show any 
findings concerning for acute abdomen or ischemic colitis.
Repeat lactate the following morning was normal.

# Respiratory alkalosis - resolved
Likely due to anxiety/pain on admission. Subsequent blood gas 
was wnl. 

# Hypophosphatemia - resolved after repletion

# Pre-renal ___ - resolved 
Cr 1.1 on return to ED ___ ___ from 0.7 ___ AM without clear
precipitant. Resolved after 2L IV fluid.

# High risk sexual activity: Treated for possible GC/chlamydia 
in the ED. Given no clear infection, treatment was not continued 
inpatient. Urine GC/chlamydia was subsequently negative. He was 
continued on PrEP. 

CHRONIC/STABLE PROBLEMS:

# ADHD: Held home vyvanse and Adderall inpatient; continued on 
discharge

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
2. ClonazePAM 1 mg PO DAILY:PRN anxiety 
3. Amphetamine-Dextroamphetamine 20 mg PO BID 
4. Vyvanse (lisdexamfetamine) 40 mg oral DAILY 

 
Discharge Medications:
1.  HydrOXYzine ___ mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 25 mg 25 mg by mouth three times a day Disp 
#*42 Tablet Refills:*0 
2.  Amphetamine-Dextroamphetamine 20 mg PO BID  
3.  ClonazePAM 1 mg PO DAILY:PRN anxiety  
4.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
5.  Vyvanse (lisdexamfetamine) 40 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Anxiety disorder with panic attacks
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
You were admitted to the hospital for chest pain. You had a 
cardiac and gastrointestinal workup for causes of the pain. All 
the tests came back negative. You were seen by the psychiatry 
team because it is very likely that your anxiety and stressors 
are contributing to your chest pain. 
They recommended that you check out the following resources:

1) ___ ___ at ___
___/
___ Floor
___ phone 
___

2) Heart math (web based app for heart rate variability 
training)

3) Equisync ___

You should follow up with your primary care doctor's office as 
detailed below.
Best wishes for your continued healing.
Take care,
Your ___ Care Team

 
Followup Instructions:
___